US07541466B2
Step 1) Preparation of (±)-2-(3-Phenoxybenzoyl)-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid ethyl ester
To a stirred solution of (±)-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid ethyl ester (6.26 g, 30.5 mmol) and 3-phenoxybenzoic acid (7.19 g, 33.6 mmol) in chloroform (150 mL) was added 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (6.43 g, 33.5 mmol). The reaction was allowed to proceed overnight and then washed with aqueous sodium bicarbonate solution, dried (sodium sulfate) and concentrated. The crude product was purified by flash chromatography over silica (hexanes/ethyl acetate) to afford 12.07 g (99%) of product as a colorless gum. In chloroform-d solvent, the proton NMR spectra of this compound appears as a 55:45 mixture of rotamers: 1H NMR (CDCl3) δ 7.46-6.90 (m, 13H), 5.46 (t, J=5.6 Hz, 0.55H), 5.18 (d, J=17.6 Hz, 0.45H), 4.80-4.73 (m, 0.45H), 4.68-4.50 (m, 1.55H), 4.22-4.07 (m, 1.10H), 4.05-3.92 (m, 0.90H), 3.34-3.19 (m, 1.55H), 3.16-3.06 (m, 0.45H), 1.19 (t, J=7.1 Hz, 1.65H), 1.04 (t, J=7.1 Hz, 1.35H) ppm.

reactant | (±)-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid ethyl ester | 30.5 mmol, 6.26 g | C(C)OC(=O)C1NCC2=CC=CC=C2C1 | C12H15NO2
reactant | 3-phenoxybenzoic acid | 33.6 mmol, 7.19 g | O(C1=CC=CC=C1)C=1C=C(C(=O)O)C=CC1 | C13H10O3
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 33.5 mmol, 6.43 g | Cl.CN(CCCN=C=NCC)C
solvent | chloroform | 150 mL | C(Cl)(Cl)Cl | CHCl3
product | (±)-2-(3-Phenoxybenzoyl)-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid ethyl ester | 12.07 g, 99% | C(C)OC(=O)C1N(CC2=CC=CC=C2C1)C(C1=CC(=CC=C1)OC1=CC=CC=C1)=O | C25H23NO4
